US09328078B2
To a solution of 6-bromo-4-chlorobenzo[c][1,2,5]oxadiazole (353 mg, 1.5 mmol) in NMP (3 mL) in a 4 dram vial was added 3-hydroxyazetidine hydrochloride (180 mg, 1.65 mmol) and triethylamine (635 μL, 4.5 mmol). A cap was tightly fitted and the reaction was heated at 85° C. O/N. Reaction worked up by diluting with EtOAc (60 mL) and washing with 1M HCl (3×20 mL) and brine (1×20 mL). The organic phase was dried with MgSO4 filtered and concentrated in vacuo. The crude material was purified by flash column chromatography (DCM) to give 264 mg (65% yield) of 1-(6-bromobenzo[c][1,2,5]oxadiazol-4-yl)azetidin-3-ol. 1H NMR (300 MHz, CDCl3) δ=7.23 (s, 1H), 5.95 (s, 1H), 4.92 (m, 1H), 4.59 (m, 2H), 4.15 (m, 2H), 2.20 (d, J=6 Hz, 1H). To a stirring 0° C. solution of 1-(6-bromobenzo[c][1,2,5]oxadiazol-4-yl)azetidin-3-ol (480 mg, 2 mmol) in NMP (12 mL) was added MeI (1.4 g, 10 mmol) followed by NaH (200 mg, 8.5 mmol). With the cold bath in place the reaction was allowed to come to RT. After 16 hours the reaction was cautiously quenched with water, treated with saturated NH4Cl and extracted into EtOAc (3×20 mL). The combined organics were washed with HCl (2M) followed by brine, dried with MgSO4 and concentrated in vacuo. The material purified by dry suction chromatography (1:1 DCM/Hex) to give 46 mg (71% yield). 1H NMR (300 MHz, CDCl3) δ=7.22 (d, J=1 Hz, 1H), 5.92 (s, br, 1H), 4.44 (m, 3H), 4.16 (m, 2H), 3.37 (s, 3H). To a solution of TKW-I-92 (406 mg, 1.43 mmol) in DME (7 mL)/Na2CO3 (2.1 mL) was added 3-formyl-phenylboronic acid (322 mg, 2.1 mmol) and Pd(P(Ph)3)4 (80 mg). The flask was then fitted with a reflux condenser, purged with argon and heated to 115° C. O/N. The reaction was worked up by diluting with 1 M NaOH (40 mL) and extracting with EtOAc (3×20 mL). The organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by dry suction filtration (DCM) to give 411 mg of material. 1H NMR (500 MHz, CDCl3) δ=10.11 (s, 1H), 8.12 (m, 1H), 7.93 (dm, J=8 Hz, 1H), 7.88 (dm, J=8 Hz, 1H), 7.65 (t, J=8 Hz, 1H), 7.21 (m, 1H), 6.08 (m, 1H), 4.56 (dd, J=10 Hz/5 Hz, 2H), 4.46 (m, 1H), 4.21 (dd, J=10 Hz/4 Hz, 2H), 3.39 (s, 3H). To a stirring solution of TKW-I-93 (411 mg, 1.33 mmol) and Rupert's reagent (378 mg, 2.7 mmol) in DCM (13 mL) at 0° C. was added TBAF (0.2 mL, 1 M THF, 0.2 mmol). After 30 min at low temperature the cold bath was removed and the reaction was allowed to come to RT. After 3 hours an excess of TBAF was added and the reaction was diluted with DCM. The organic phases were washed with saturated NH4Cl, brine, and then dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash column chromatography (DCM) to give 477 mg (94% yield). 1H NMR (500 MHz, CDCl3) δ=7.72 (s, broad, 1H), 7.65 (dt, J=7 Hz/2 Hz, 2H), 7.51 (m, 2H), 7.17 (d, J=1 Hz, 1H), 6.06 (s, 1H), 5.12 (m, 1H), 4.53 (m, 2H), 4.45 (m, 1H), 4.18 (dm, J=10 Hz, 2H), 3.38 (s, 3H).

reactant | 6-bromo-4-chlorobenzo[c][1,2,5]oxadiazole | 1.5 mmol, 353 mg | BrC=1C=C(C=2C(=NON2)C1)Cl | C6H2BrClN2O
reactant | 3-hydroxyazetidine hydrochloride | 1.65 mmol, 180 mg | Cl.OC1CNC1
reactant | triethylamine | 4.5 mmol, 635 μL | C(C)N(CC)CC | C6H15N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 1-(6-bromobenzo[c][1,2,5]oxadiazol-4-yl)azetidin-3-ol | 264 mg, 65% yield | BrC=1C=C(C=2C(=NON2)C1)N1CC(C1)O | C9H8BrN3O2
